US05051422
4-(2-Methoxyphenyl)-1-(phenylmethyl)-2-piperazinemethanamine
In a manner similar to Preparation 2, react 4-(2-methoxyphenyl)-1-(phenylmethyl)-2-piperazinecarboxamide (4.0 g, 16.6 mmol) with lithium aluminum hydride (1.0 g, 26 mmol) to give the title compound.

reactant | 4-(2-methoxyphenyl)-1-(phenylmethyl)-2-piperazinecarboxamide | 16.6 mmol, 4.0 g | COC1=C(C=CC=C1)N1CC(N(CC1)CC1=CC=CC=C1)C(=O)N | C19H23N3O2
reactant | lithium aluminum hydride | 26 mmol, 1.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 4-(2-Methoxyphenyl)-1-(phenylmethyl)-2-piperazinemethanamine | COC1=C(C=CC=C1)N1CC(N(CC1)CC1=CC=CC=C1)CN | C19H25N3O
